US07700628B2
G. 2-[4-(1-Aminoethyl)-2-hydroxybenzoylamino]-N-(5-chloropyridin-2-yl)-benzamide
To a solution of 2-[4-(1-aminoethyl)-2-(methoxymethoxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide (0.205 g, 0.45 mmol) in CH2Cl2 (4.1 mL) was added trifluoroacetic acid (4.1 mL) followed by H2O (4.1 mL). The reaction was stirred at room temperature for 20-30 min. Then the volatile solvent was removed under a reduced pressure and the residue was diluted with H2O (20 mL) and carefully neutralized with solid NaHCO3. The aqueous solution was extracted with EtOAc (5×25 mL), dried (Na2 SO4) and concentrated to afford the expected product (0.180 g, 97%), TLC Rf: 0.36 (5% 2 N NH3/MeOH in CH2Cl2). 1H NMR (400 MHz, CD3OD): δ 8.44 (d, 1H, J=8.0 Hz); 8.31 (d, 1H, J=2.4 Hz); 8.23 (d, 1H, J=8.8 Hz); 7.93 (d, 1H, J=8.8 Hz); 7.86-7.82 (m, 2H); 7.59 (dt, 1H, J=2.0 and 8.8 Hz); 7.29 (dt, 1H, J=0.8 and 7.6 Hz); 7.00 (m, 2H); 4.39 (q, 1H, J=7.2 Hz); 1.58 (d, 3H, J=6.8 Hz). IS-MS (m/e): 411 (m+1) and 409 (m−1) H. Wang's Resin-linked 2-[4-(1-aminoethyl)-2-hydroxybenzoylamino]-N-(5-chloro-pyridin-2-yl)benzamide

reactant | 2-[4-(1-aminoethyl)-2-(methoxymethoxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 0.45 mmol, 0.205 g | NC(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OCOC | C23H23ClN4O4
reactant | trifluoroacetic acid | 4.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | H2O | 4.1 mL | O | H2O
solvent | CH2Cl2 | 4.1 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(1-Aminoethyl)-2-hydroxybenzoylamino]-N-(5-chloropyridin-2-yl)-benzamide | 0.180 g, 97% | NC(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)O | C21H19ClN4O3
